datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15]>>[C:0]([C:1](=[C:2]([C:3]([H:13])[H:14])[H:12])[H:11])(=[C:4]([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:10],192.8824
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:5]1)([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:17],39.283576
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]([C:6]([H:14])[H:15])([H:12])[H:13])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:7],136.357
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9](=[S:10])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7](=[C:8][C:9](=[S:10])[H:14])([H:11])[H:12],40.5848
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[H:13])[C:4](=[C:5]([H:17])[H:18])[C:6](=[C:7]([H:19])[H:20])[O:8][O:9][C:10]([H:21])([H:22])[H:23])([H:11])[H:12]>>[C:0](=[C:1]1[C:2]([C:3]([H:14])([H:15])[H:16])([H:13])[O:8][C:6](=[C:7]([H:19])[H:20])[C:4]1=[C:5]([H:17])[H:18])([H:11])[H:12].[O:9][C:10]([H:21])([H:22])[H:23],54.392
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:16]([H:17])([H:18])[H:19])[H:8],19.079
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[H:9])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:16][O:17])([H:8])[H:9])([H:5])([H:6])[H:7],-1.7459832
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:22])([H:23])[H:24])=[C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:20])[H:21])[H:19])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([C:8]([H:22])([H:23])[H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],137.695
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[H:20])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16]#[C:15][H:19])([C:18]([H:21])([H:22])[H:23])[H:20])[H:7],29.1625
[C:0](=[C:1]([O:2][H:5])[H:4])[H:3].[O:6][H:7]>>[C:0](#[C:1][O:2][H:5])[H:3].[H:4][O:6][H:7],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:20])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[H:21])([H:17])([H:18])[H:19],75.7304
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][O:27][O:28][H:29],62.751632
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],151.754
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:15])[H:3].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])[H:16])[H:14],25.5224
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[S:13]=[C:14]([C:15]([S:16][H:19])[H:18])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[S:13])[H:17])([S:16][H:19])[H:18],38.4928
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28],33.6812
